US03954754
EXAMPLE 42: 3-Hydrazino-5,6,7,8-tetrahydro-6-pyrido [4,3-c]pyridazinecarboxylic acid ethyl ester
The 3-ethylmercapto-5,6,7,8-tetrahydro-6-pyrido[4,3-c]pyridazinecarboxylic acid ethyl ester, required as starting material, may be obtained in a manner analogous to that described in Example 41 (b), from 5,6,7,8-tetrahydro-3-mercapto-6-pyrido[4,3-c]pyridazinecarboxylic acid ethyl ester and ethyl bromide. M.P. 54°-56° from ligroin.

reactant | 3-ethylmercapto-5,6,7,8-tetrahydro-6-pyrido[4,3-c]pyridazinecarboxylic acid ethyl ester | C(C)OC(=O)N1CC2=C(N=NC(=C2)SCC)CC1 | C12H17N3O2S
reactant | 5,6,7,8-tetrahydro-3-mercapto-6-pyrido[4,3-c]pyridazinecarboxylic acid ethyl ester | C(C)OC(=O)N1CC2=C(N=NC(=C2)S)CC1 | C10H13N3O2S
reactant | ethyl bromide | C(C)Br | C2H5Br
product | 3-Hydrazino-5,6,7,8-tetrahydro-6-pyrido [4,3-c]pyridazinecarboxylic acid ethyl ester | C(C)OC(=O)N1CC2=C(N=NC(=C2)NN)CC1 | C10H15N5O2
